US08865725B2
6-Benzyl-2-chloromethyl-6H-imidazo[1,2-c]pyrimidin-5-one was prepared from 4-amino-1-benzyl-1H-pyrimidin-2-one and 1,3-dichloroacetone using the methods described above for the preparation of 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one.

reactant | 4-amino-1-benzyl-1H-pyrimidin-2-one | NC1=NC(N(C=C1)CC1=CC=CC=C1)=O | C11H11N3O
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one | ClCC=1N=C2N(C(N(C=C2)C2=CC=C(C=C2)F)=O)C1 | C13H9ClFN3O
product | 6-Benzyl-2-chloromethyl-6H-imidazo[1,2-c]pyrimidin-5-one | C(C1=CC=CC=C1)N1C(N2C(C=C1)=NC(=C2)CCl)=O | C14H12ClN3O
